US05635510
47.4 Synthesis of 1-(4-fluoro-phenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one hydrochloride
Combine 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one (10 mmol) and 1,2-dichloroethane (70 mL). Cool using an ice bath. Add in dropwise fashion, 1-chloroethyl chloroformate (48.6 mmol). Warm to ambient temperature and maintain for 1 h. Extract using saturated NaHCO3 (120 mL). Extract the aqueous phase using dichloromethane (120 mL). Combine the organic layers, extract with saturated NaCl, dry over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Add anhydrous methanol (70 mL) and heat at reflux for 1 h. Concentrate in in vacuo to obtain a residue and purify to obtain the title compound.

reactant | 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one | 10 mmol | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC=C(C=C2)F)=O)CC1 | C20H20FN3O
reactant | 1,2-dichloroethane | 70 mL | ClCCCl | C2H4Cl2
reactant | 1-chloroethyl chloroformate | 48.6 mmol | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | methanol | 70 mL | CO | CH4O
product | 1-(4-fluoro-phenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one hydrochloride | Cl.FC1=CC=C(C=C1)N1C=NC(C12CCNCC2)=O | InChI=1S/C13H14FN3O.ClH/c14-10-1-3-11(4-2-10)17-9-16-12(18)13(17)5-7-15-8-6-13;/h1-4,9,15H,5-8H2;1H
